US08252806B2
4-Cyclohexyloxy-2-(3,5-dimethyl-pyrazol-1-yl)-quinazoline, Hydrochloride (Compound A25)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclohexanol and 3,5-dimethylpyrazole. Mp. 152.9-153.5° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | 4-Cyclohexyloxy-2-(3,5-dimethyl-pyrazol-1-yl)-quinazoline, Hydrochloride | Cl.C1(CCCCC1)OC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C19H22N4O.ClH/c1-13-12-14(2)23(22-13)19-20-17-11-7-6-10-16(17)18(21-19)24-15-8-4-3-5-9-15;/h6-7,10-12,15H,3-5,8-9H2,1-2H3;1H
